US09403798B2
2-Bromo-4-nitro-1H-pyrrole
To a tetrahydrofuran solution (10 mL) of 3-nitro-1H-pyrrole (520 mg, 4.64 mmol), 1,3-dibromo-5,5-dimethylhydantoin (730 mg, 2.55 mmol) was added at −78° C. and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure and water was added to the resultant residue, followed by extraction from the resultant mixture with ethyl acetate. The organic layer was concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | 3-nitro-1H-pyrrole | 4.64 mmol, 520 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 2.55 mmol, 730 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Bromo-4-nitro-1H-pyrrole | BrC=1NC=C(C1)[N+](=O)[O-] | C4H3BrN2O2
